US08957080B2
To a 250 mL of sealed tube was added ethyl 2-bromo-2-methylpropanoate (19.4 g, 0.1 mol, 1.0 equiv), cyclopropanamine (11.4 g, 0.2 mol, 2.0 equiv), K2CO3 (27.6 g, 0.2 mol, 2.0 equiv), KI (1.66 g, 0.01 mol, 0.1 equiv) and 200 mL of MeCN. The mixture was stirred at 100° C. for 12 h then cooled to room temperature and the solids were filtered. The filtrate was concentrated and purified on silica gel column eluting with pet. ether/ethyl acetate=4/1 to give 8.0 g (46%) of ethyl 2-(cyclopropylamino)-2-methylpropanoate.

reactant | ethyl 2-bromo-2-methylpropanoate | 0.1 mol, 19.4 g, 1.0 equiv | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cyclopropanamine | 0.2 mol, 11.4 g, 2.0 equiv | C1(CC1)N | C3H7N
reactant | K2CO3 | 0.2 mol, 27.6 g, 2.0 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 200 mL | CC#N | C2H3N
product | ethyl 2-(cyclopropylamino)-2-methylpropanoate | 8.0 g, 46% | C1(CC1)NC(C(=O)OCC)(C)C | C9H17NO2
